US06916816B2
Preparation of 2-Carboxyphenanthrene
Bromine (4.7 ml, 0.091 mol) was added to an ice-cold solution of sodium hydroxide (12.7 g, 0.318 mol) in water (70 ml) to form a basic solution of sodium hypobromite. The sodium hypobromite solution was added to a stirred solution of 2-acetylphenanthrene in dioxane (70 ml) at 60-65 ° C. for 15 min. Excess sodium hypobromite was removed by the addition of 10% solution of sodium metabisulphite (20 ml). Water (300 ml) was added and approximately 100 ml of solvent was removed under reduced pressure. The reaction mixture was acidified with concentrated HCl. The precipitate formed was filtered and washed with water to give the title compound as a solid (4.01 g, 99.2%).

reactant | sodium hypobromite | Br[O-].[Na+]
reactant | 2-acetylphenanthrene | C(C)(=O)C1=CC=2C=CC3=CC=CC=C3C2C=C1 | C16H12O
reactant | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 2-Carboxyphenanthrene | 4.01 g, 99.2% | C(=O)(O)C1=CC=2C=CC3=CC=CC=C3C2C=C1 | C15H10O2
